US07858781B2
(1) 1-[2-(4-Nitro-phenyl)-ethyl]-azepane (71)
1-(2-Bromo-ethyl)-4-nitro-benzene (10 g, 43.47 mmol) is added under argon to a mixture of azepane (4.9 ml, 43.47 mmol) and potassium carbonate (6 g, 43.47 mmol) in 100 ml of DMF. After stirring over night at room temperature, the mixture is filtered and evaporated under high vacuum. The residue is dissolved in ethyl acetate, washed with water and brine and dried over sodium sulfate. Evaporation gave 9.1 g (84%) of a yellow oil.

reactant | 1-(2-Bromo-ethyl)-4-nitro-benzene | 43.47 mmol, 10 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | azepane | 43.47 mmol, 4.9 ml | N1CCCCCC1 | C6H13N
reactant | potassium carbonate | 43.47 mmol, 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-Nitro-phenyl)-ethyl]-azepane | 9.1 g, 84% | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCCCCC1 | C14H20N2O2
